US06727264B1
2-METHYL-N-[3-(1-{3-[7-METHYL-2-(4-NITROPHENYL)-1H-INDOL-3-YL]PROPYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE:
Prepared by Procedure E and Scheme M using 2-methyl-N-(3-{1-[5-(4-nitrophenyl)-5-oxopentyl]-4-piperidinyl}phenyl)propanamide and 1-(2-methylphenyl)hydrazine hydrochloride: ESMS m/e: 538.8 (M+H)+.

reactant | 2-methyl-N-(3-{1-[5-(4-nitrophenyl)-5-oxopentyl]-4-piperidinyl}phenyl)propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCCC(=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C26H33N3O4
reactant | 1-(2-methylphenyl)hydrazine hydrochloride | Cl.CC1=C(C=CC=C1)NN
product | 2-METHYL-N-[3-(1-{3-[7-METHYL-2-(4-NITROPHENYL)-1H-INDOL-3-YL]PROPYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCC1=C(NC2=C(C=CC=C12)C)C1=CC=C(C=C1)[N+](=O)[O-])C | C33H38N4O3
